US04507317
A stirred solution of ethyl trans-3-(2,2-difluoroethenyl)-2,2-dimethylcyclopropanecarboxylate (10.0 g; 0.049 mole) and 30 ml of an aqueous 10% sodium hydroxide solution in 60 ml of ethanol was heated at reflux for 1.25 hours, then stirred at room temperature for approximately 18 hours. The reaction mixture was heated at 70° C. for an additional 1.5 hours, then cooled to room temperature and poured into 150 ml of an aqueous 5% hydrochloric acid solution. The resultant mixture was extracted with three 50 ml portions of diethyl ether. The extracts were combined, washed twice with water (50 ml) and once with an aqueous saturated sodium chloride solution, then dried over anhydrous magnesium sulfate. The organic solution was filtered, and the filtrate evaporated under reduced pressure to yield 7.95 g of trans-3-(2,2-difluoroethenyl)-2,2-dimethylcyclopropanecarboxylic acid as an oil.

reactant | ethyl trans-3-(2,2-difluoroethenyl)-2,2-dimethylcyclopropanecarboxylate | 0.049 mole, 10.0 g | FC(=C[C@@H]1C([C@H]1C(=O)OCC)(C)C)F | C10H14F2O2
reactant | sodium hydroxide | [OH-].[Na+]
reactant | hydrochloric acid | Cl | ClH
solvent | ethanol | 60 ml | C(C)O | C2H6O
product | trans-3-(2,2-difluoroethenyl)-2,2-dimethylcyclopropanecarboxylic acid | 7.95 g | FC(=C[C@@H]1C([C@H]1C(=O)O)(C)C)F | C8H10F2O2
